US06613942B1
3-Chloro-4-hydroxybenzoic Acid {2-Methoxy-4-[2-(4-Trifluoromethylbenzylamino)ethoxy]-benzylidene}hydrazide
This compound was prepared analogously to the compound described in the previous example starting from resin bound 3-chloro-4-hydroxybenzoic acid hydrazide (resin—[building block 1]) (2 g, ˜2 mmoles), 4-(2-bromoethoxy)-2-methoxybenzaldehyde ([building block 2]) (0.73 g, 1.5 equivs.), and 4-trifluoromethylbenzylamine ([building block 3]) (3.3 g, 10 equivs.). After cleavage with 50% trifluoroacetic acid, the residue (1 g) was purified by column chromatography on silica gel (20 g) eluting with a mixture of 25% aq. ammonia, ethanol and dichloromethane (1:9:115). This afforded 130 mg of the title compound.

reactant | 3-chloro-4-hydroxybenzoic acid hydrazide | ClC=1C=C(C(=O)NN)C=CC1O | C7H7ClN2O2
reactant | 4-(2-bromoethoxy)-2-methoxybenzaldehyde | 0.73 g | BrCCOC1=CC(=C(C=O)C=C1)OC | C10H11BrO3
reactant | 4-trifluoromethylbenzylamine | 3.3 g | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
product | 3-Chloro-4-hydroxybenzoic Acid {2-Methoxy-4-[2-(4-Trifluoromethylbenzylamino)ethoxy]-benzylidene}hydrazide | COC1=C(C=NNC(C2=CC(=C(C=C2)O)Cl)=O)C=CC(=C1)OCCNCC1=CC=C(C=C1)C(F)(F)F | C25H23ClF3N3O4
